US08283353B2
4′-{[4-(4-methylidenecyclohexyl)-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl]methyl}biphenyl-2-carbonitrile
To a solution (15 mL) of methyltriphenylphosphonium bromide (1.2 g) in tetrahydrofuran was added n-butyllithium (1.6M hexane solution, 2 mL) at 0° C., and the mixture was stirred at the same temperature for 30 min. The reaction mixture was warmed to room temperature, and further stirred for 30 min. A solution (5 mL) of 4′-{[5-oxo-4-(4-oxocyclohexyl)-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl]methyl}biphenyl-2-carbonitrile (1 g) in tetrahydrofuran was added, and the mixture was stirred at 70° C. for 3 hr. The insoluble material was filtered off, and the obtained filtrate was extracted with ethyl acetate and 1 N hydrochloric acid. The ethyl acetate layer was washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography to give the title compound as a colorless solid (0.8 g, 80%).

reactant | n-butyllithium | 1.6M, 2 mL | C(CCC)[Li]
reactant | 4′-{[5-oxo-4-(4-oxocyclohexyl)-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl]methyl}biphenyl-2-carbonitrile | 5 mL, 1 g | O=C1N(C=2N(C(=C1CC1=CC=C(C=C1)C=1C(=CC=CC1)C#N)CCC)N=CN2)C2CCC(CC2)=O | C28H27N5O2
catalyst | methyltriphenylphosphonium bromide | 15 mL, 1.2 g | [Br-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 4′-{[4-(4-methylidenecyclohexyl)-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl]methyl}biphenyl-2-carbonitrile | 0.8 g, 80% | C=C1CCC(CC1)N1C=2N(C(=C(C1=O)CC1=CC=C(C=C1)C=1C(=CC=CC1)C#N)CCC)N=CN2 | C29H29N5O
